US07550598B2
(Z)-4-(4-(2-methoxyphenylthio)quinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one
The title compound was prepared from (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one and 2-methoxythiophenol using a procedure analogous to the one described in Example 6. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.96 (s, 3H) 3.68 (s, 3H) 6.77 (s, 1H) 7.65-7.69 (m, 3H) 7.83-7.93 (m, 3H) 7.99 (d, J=8.08 Hz, 1H) 8.16 (d, J=8.34 Hz, 1H) 10.35 (s, 1H) 13.04 (bs, 1H); ESI-MS: m/z calc'd for C20H17N3O2S 363.10. found 364.3 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C | C13H10ClN3O
reactant | 2-methoxythiophenol | COC1=C(C=CC=C1)S | C7H8OS
product | (Z)-4-(4-(2-methoxyphenylthio)quinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one | COC1=C(C=CC=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C | C20H17N3O2S
